US06489316B2
(2S,5R,6S)-6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo-[3.2.0]heptane-2-carboxylic acid 4,4-dioxide
To a 0° C. solution of 6-aminopenicillanic acid (10.0 g, 0.046 mol) in a mixture of water (32 mL) and acetonitrile(48 mL) was added, dropwise, a solution containing potassium permanganate (9.6 g, 0.061 mol) and concentrated sulfuric acid (6 mL) in water (120 mL). At the end of the addition, a 50% aqueous sodium bisulfite solution was added, dropwise, to the reaction mixture until a clear solution was observed. Anhydrous ammonia gas was passed through the solution at 0° C. until pH 3, at which time the sulfone product precipitated. The solid was filtered, washed with acetone and dried in vacuo to obtain 9.0 g(78%) of the desired product.

reactant | 6-aminopenicillanic acid | 0.046 mol, 10.0 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
reactant | potassium permanganate | 0.061 mol, 9.6 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | ammonia | N | H3N
solvent | water | 32 mL | O | H2O
solvent | acetonitrile | 48 mL | C(C)#N | C2H3N
solvent | water | 120 mL | O | H2O
product | (2S,5R,6S)-6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo-[3.2.0]heptane-2-carboxylic acid 4,4-dioxide | 9.0 g, 78% | N[C@@H]1[C@H]2S(C([C@@H](N2C1=O)C(=O)O)(C)C)(=O)=O | C8H12N2O5S
